US04096265
A mixture of 0.5 g (1.31 mmole) of 2-cyano-5,5-dimethyl-8-(1,2-dimethylheptyl)-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, 0.139 g (2.0 mmole) of hydroxylamine hydrochloride and 0.212 g (2.0 mmole) of sodium carbonate in 17 ml of dimethylformamide was heated on a steam bath for 1.5 hours. After cooling, the reaction mixture was partitioned between 50 ml each of chloroform and water. The organic layer was separated, washed with water, dried over Na2SO4 and filtered. After removal of the solvents on a rotary evaporator, the last traces of dimethylformamide were removed in vacuo. Crystallization from chloroform gave 280 mg (56%) of 5,5-dimethyl-8-(1,2-dimethylheptyl)-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine-2-carboxamidoxime as colorless crystals. Recrystallization of the compound from chloroform gave poor recovery (17.5%) of the crystalline material, m.p. 142°-45° C. The assigned structure was confirmed by the ir, nmr and mass spectra (M+ at 415). Thin-layer chromatography (20% methanol/chloroform on silica gel) revealed two spots corresponding to the two stereoisomers.

reactant | 2-cyano-5,5-dimethyl-8-(1,2-dimethylheptyl)-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | 1.31 mmole, 0.5 g | C(#N)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1O)C(C(CCCCC)C)C | C24H34N2O2
reactant | hydroxylamine hydrochloride | 2.0 mmole, 0.139 g | Cl.NO
reactant | sodium carbonate | 2.0 mmole, 0.212 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 5,5-dimethyl-8-(1,2-dimethylheptyl)-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine-2-carboxamidoxime | 280 mg, 56% | CC1(OC2=C(C(=CC(=C2)C(C(CCCCC)C)C)O)C2=C1CCN(C2)C(N)=NO)C | C24H37N3O3
